US04889856
7,8-Dihydro-2-(1-methylethyl)-4-(1-piperazinyl)-6H-thiopyrano[3,2-d]pyrimidine dihydrochloride hemisemihydrate
A solution of 4-chloro-7,8-dihydro-2-(1-methylethyl)-6H-thiopyrano[3,2-d]-pyrimidine (from Table I) (2.8 g) and N-tert-butoxycarbonylpiperazine (5.0 g) in isoamyl alcohol (50 ml) was heated at reflux for 1 hour, cooled, filtered and the solvent distilled at reduced pressure. The residue was dissolved in ether, washed with H2O and brine, dried over magnesium sulfate and evaporated in vacuo. To the residue was added trifluoroacetic acid (40 ml) which after 1 hour was distilled at reduced pressure. The residue was treated with ice and excess 10N sodium hydroxide, extracted into CH2Cl2, washed with water and brine and dried over K2CO3. The CH2Cl2 was distilled at reduced pressure and the residue was dissolved in ethanol (30 ml), treated with 10N ethanolic HCl (3 ml) and ether (30 ml) to give the title compound which melts at 256° to 258° C. after recrystallization from 2-propanol-ether.

reactant | 4-chloro-7,8-dihydro-2-(1-methylethyl)-6H-thiopyrano[3,2-d]-pyrimidine | 2.8 g | ClC=1C2=C(N=C(N1)C(C)C)CCCS2 | C10H13ClN2S
reactant | N-tert-butoxycarbonylpiperazine | 5.0 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | isoamyl alcohol | 50 ml | C(CC(C)C)O | C5H12O
product | 7,8-Dihydro-2-(1-methylethyl)-4-(1-piperazinyl)-6H-thiopyrano[3,2-d]pyrimidine dihydrochloride | Cl.Cl.CC(C)C=1N=C(C2=C(N1)CCCS2)N2CCNCC2 | InChI=1S/C14H22N4S.2ClH/c1-10(2)13-16-11-4-3-9-19-12(11)14(17-13)18-7-5-15-6-8-18;;/h10,15H,3-9H2,1-2H3;2*1H
